US05037980
5-(α,α,α-Trifluoro-m-tolyl)imidazo[1,2-a]pyrimidine
A mixture of 2.64 g of 2-aminoimidazole hemisulfate, 1.64 g of anhydrous sodium acetate, 4.86 g of 3-dimethylamino-3'-(trifluoromethyl)-acrylophenone and 50 ml of glacial acetic acid was refluxed for six hours. The solvent was removed in vacuo to yield a crude solid. The solid was dissolved in dichloromethane and this solution was washed with saturated aqueous sodium bicarbonate solution. The organic layer was separated and dried over powdered anhydrous sodium sulfate. This solution was passed through a short column of a hydrous magnesium silicate and the effluent was refluxed on a steam bath with the gradual addition of hexane until turbidity was noted. After cooling the desired compound was collected by filtration and gave 1.20 g of pale yellow crystals, m.p. 160°-163° C.

reactant | 2-aminoimidazole hemisulfate | 2.64 g | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
reactant | sodium acetate | 1.64 g | C(C)(=O)[O-].[Na+]
reactant | 3-dimethylamino-3'-(trifluoromethyl)-acrylophenone | 4.86 g | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(α,α,α-Trifluoro-m-tolyl)imidazo[1,2-a]pyrimidine | 1.20 g | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=CN2)(F)F | C13H8F3N3
